US04775662
Tridecyl triphenyl phosphonium bromide
A solution of 1-bromotridecane (100 g, 0.4 mol) and triphenyl phosphine (100 g, 0.4 mol) in 500 ml of xylenes was refluxed overnight. The reaction mixture was then cooled to room temperature and poured into diethyl ether. The resulting oil was washed three times with ether, dissolved in methylene chloride and then concentrated in vacuo. The oil was left standing in diethyl ether at 0° C. overnight and then concentrated in vacuo to give a white solid.

reactant | 1-bromotridecane | 0.4 mol, 100 g | BrCCCCCCCCCCCCC | C13H27Br
reactant | triphenyl phosphine | 0.4 mol, 100 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | diethyl ether | C(C)OCC | C4H10O
product | Tridecyl triphenyl phosphonium bromide | [Br-].C(CCCCCCCCCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C31H42P.BrH/c1-2-3-4-5-6-7-8-9-10-11-21-28-32(29-22-15-12-16-23-29,30-24-17-13-18-25-30)31-26-19-14-20-27-31;/h12-20,22-27H,2-11,21,28H2,1H3;1H/q+1;/p-1
